US05618821
To a suspension of 1.54 g (6 mmol) of 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol, 1.2 g (1.2 eq) of 2-methoxy-5-(3-hydroxypropyl)-pyridine, 1.9 g (1.2 eq) of triphenylphosphine in 50 ml of methylene chloride under nitrogen at 5° C. was added in portions 1.22 g (1.2 eq) of DEAD. The mixture was stirred at room temperature for 20 h, concentrated in vacuo, the residue was triturated with ether, and filtered. The crude product was purified by MPLC (50 id, Kreselgel 60 column, hexane/ethyl acetate, 3:1) to afford 2 g (82%) of 2-methoxy-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine, as a clear oil, which upon recrystallization from isopropyl acetate/hexane afforded white powder, m.p. 62°-64° C.

reactant | 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | 6 mmol, 1.54 g | FC(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)(F)F | C11H9F3N2O2
reactant | 2-methoxy-5-(3-hydroxypropyl)-pyridine | 1.2 g, 1.2 eq | COC1=NC=C(C=C1)CCCO | C9H13NO2
reactant | triphenylphosphine | 1.9 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.22 g, 1.2 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine | 2 g, 82% | COC1=NC=C(C=C1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C(F)(F)F)C | C20H20F3N3O3
